US04122179
Apovincamine 4-acetamidobutyrate
According to the method of the preceding example, there are obtained, starting from 3.36 g of apovincamine and 1.45 g of 4-acetamidobutyric acid, 4.4 g of a product, having melting point of 128° C. and insoluble in water and alcohol. The apovincamine content of the salt is 56%.

reactant | apovincamine | 3.36 g | CC[C@@]12CCCN3[C@@H]1C4=C(C=5C=CC=CC5N4C(=C2)C(=O)OC)CC3 | C21H24N2O2
reactant | 4-acetamidobutyric acid | 1.45 g | C(C)(=O)NCCCC(=O)O | C6H11NO3
solvent | water | O | H2O
product | Apovincamine 4-acetamidobutyrate | CC[C@@]12CCCN3[C@@H]1C4=C(C=5C=CC=CC5N4C(=C2)C(=O)OC)CC3.C(C)(=O)NCCCC(=O)[O-] | InChI=1S/C21H24N2O2.C6H11NO3/c1-3-21-10-6-11-22-12-9-15-14-7-4-5-8-16(14)23(18(15)19(21)22)17(13-21)20(24)25-2;1-5(8)7-4-2-3-6(9)10/h4-5,7-8,13,19H,3,6,9-12H2,1-2H3;2-4H2,1H3,(H,7,8)(H,9,10)/p-1/t19-,21+;/m1./s1
